US06921828B2
A mixture of 3-chloro-2-cyano-5-trifluoromethylpyridine (5.1 g) and 5% palladium on charcoal (5.1 mg as Pd metal) was stirred at 20° C. with methanol and concentrated hydrochloric acid (2.5 ml) under 1 atmosphere of hydrogen. After 4 hours the reaction was judged to be complete by hplc. The mixture was filtered through Celatom, washed with methanol and water and evaporated to give 2-aminomethyl-3-chloro-5-trifluoromethylpyridine hydrochloride in 95-97% yield, NMR (in D2O) 4.6 (s, 2H), 8.35 (s, 1H), 8.9 (s, 1H).

reactant | 3-chloro-2-cyano-5-trifluoromethylpyridine | 5.1 g | ClC=1C(=NC=C(C1)C(F)(F)F)C#N | C7H2ClF3N2
reactant | hydrochloric acid | 2.5 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 5.1 mg | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 2-aminomethyl-3-chloro-5-trifluoromethylpyridine hydrochloride | 95-97% yield | Cl.NCC1=NC=C(C=C1Cl)C(F)(F)F | InChI=1S/C7H6ClF3N2.ClH/c8-5-1-4(7(9,10)11)3-13-6(5)2-12;/h1,3H,2,12H2;1H
